US04948796
16.6 g of methyl o-anisate was dissolved in 100 ml of trifluoroacetic acid. Thereto was added 14.0 g of hexamethylenetetramine with ice-cooling. The mixture was refluxed for 2 hours. The solvent was removed by distillation under reduced pressure. The residue was poured into 120 ml of water. The mixture was neutralized with sodium hydrogencarbonate and then extracted with ethyl acetate. The extract was washed with water and a saturated aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: n-hexane/ethyl acetate=2/1) to obtain 16.1 g of methyl 5-formyl-2-methoxybenzoate. It was recrystallized from diisopropyl ether to obtain 14.0 g of colorless crystals having a melting point of 85°-86° C.

reactant | methyl o-anisate | 16.6 g | C(C=1C(=CC=CC1)OC)(=O)OC | C9H10O3
reactant | hexamethylenetetramine | 14.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 5-formyl-2-methoxybenzoate | 16.1 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C10H10O4
